US05266585
2-[p-(Phenoxy)-phenyl]-2-[1-(1H-1,2,4-triazolyl)-methyl]-1,3-dioxolane
11 parts of 2-[p-(Phenoxycarbonyloxy)-phenyl]-2-[1-(1H-1,2,4-triazolyl)-methyl]-1,3 -dioxolane are heated in 200 ml ethylene glycol diethyl ether (about 10 hours) at a temperature of 130° C. till the end of the carbon dioxid production. Then the solvent is destilled of under reduced pressure. The oily crude product is cooled to room temperature, solved in 500 ml diethyl ether, washed with two portions of 100 ml water, dried over sodium sulfate and filtered. The solvent is removed by evaporation. The crude product is recrystallised from ethyl acetate/cyclohexane in the presence of active carbon to give colourless crystals with a melting point of 100°-102° C.

reactant | 2-[p-(Phenoxycarbonyloxy)-phenyl]-2-[1-(1H-1,2,4-triazolyl)-methyl]-1,3 -dioxolane | O(C1=CC=CC=C1)C(=O)OC1=CC=C(C=C1)C1(OCCO1)CN1N=CN=C1 | C19H17N3O5
reactant | carbon dioxid | C(=O)=O | CO2
solvent | ethylene glycol diethyl ether | 200 ml | C(C)OCCOCC | C6H14O2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2-[p-(Phenoxy)-phenyl]-2-[1-(1H-1,2,4-triazolyl)-methyl]-1,3-dioxolane | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1(OCCO1)CN1N=CN=C1 | C18H17N3O3
